US05298518
(3) 2-Ethyl-7-n-propyl-imidazo[4,5-b]pyridine
2.6 g (0.017M) of 2,3-diamino-4-n-propylpyridine and 1.4 ml (0.019M) of propionic acid were added to 15 ml of phosphoric acid, and the mixture was heated at 140° to 150° C. for 20 hr. It was cooled to room temperature, poured into a cold aqueous NaOH solution and then extracted with ethyl acetate. The extract was dried over magnesium sulfate, and the solvent was distilled off in vacuo to prepare a substantially pure brown oleaginous intended product. The yield was 2.9 g (this compound was used as a starting material in the preparation of the following raw material (29)).

reactant | 2,3-diamino-4-n-propylpyridine | 0.017M, 2.6 g | NC1=NC=CC(=C1N)CCC | C8H13N3
reactant | propionic acid | 0.019M, 1.4 ml | C(CC)(=O)O | C3H6O2
reactant | phosphoric acid | 15 ml | P(O)(O)(O)=O | H3O4P
reactant | NaOH | [OH-].[Na+]
product | 2-Ethyl-7-n-propyl-imidazo[4,5-b]pyridine | C(C)C=1NC=2C(=NC=CC2CCC)N1 | C11H15N3
